* Z:\home\nicolas\UCL\BAC1-Q2\LINFO1140-electronique\travaux\2021-2022\LINFO1140-2021-2022\Travail1\simu\Circuit.asc
I1 0 N001 1
V1 N001 0 2
R2 N001 N002 15
R3 N002 0 5
R1 0 N001 20
.op
.backanno
.end
