* Z:\home\nicolas\UCL\BAC1-Q2\LINFO1140-electronique\travaux\2021-2022\LINFO1140-2021-2022\Travail3\simu\Norton.asc
In 0 a 2.1
Req a 0 5.714285714
.op
.backanno
.end
