* Z:\home\nicolas\UCL\BAC1-Q2\LINFO1140-electronique\travaux\2021-2022\LINFO1140-2021-2022\Travail3\simu\Thévenin.asc
Req N001 0 5.714285714
Vth N001 0 12V
.op
.backanno
.end
