* Z:\home\nicolas\UCL\BAC1-Q2\LINFO1140-electronique\travaux\2021-2022\LINFO1140-2021-2022\Travail3\simu\annulé.asc
R4 N002 N001 3
R5 0 N002 3
R1 N001 a 4
R3 0 N001 6
R2 N001 0 4
.op
.backanno
.end
