* Z:\home\nicolas\UCL\BAC1-Q2\LINFO1140-electronique\travaux\2021-2022\LINFO1140-2021-2022\Travail3\simu\circuit.asc
V1 N002 0 1V
I1 0 a 2A
R4 N003 N001 3
R5 N002 N003 3
R1 N001 a 4
R3 N002 N001 6
R2 N001 0 4
.op
.backanno
.end
