* Z:\home\nicolas\UCL\BAC1-Q2\LINFO1140-electronique\travaux\2021-2022\LINFO1140-2021-2022\Travail1\simu\simplifié.asc
I1 0 N1 1
V1 N1 0 2
Req 0 N1 10
.op
.backanno
.end
