* Z:\home\nicolas\UCL\BAC1-Q2\LINFO1140-electronique\travaux\2021-2022\LINFO1140-2021-2022\Travail3\simu\simplifié.asc
V1 N001 0 1V
I1 0 N1 2A
Req N001 N2 3
R3 N2 N1 4
R5 N2 0 4
.op
.backanno
.end
